US04898455
3-[2-(p-Bromophenyl)-5-pyridyl]propionaldehyde is converted in an analogous manner to paragraph (a) into 2-(p-bromophenyl)-5-(4-methoxy-3-butenyl)pyridine and this is then hydrolyzed in an analogous manner to paragraph (b) to give 4-[2-(p-bromophenyl)-5-pyridyl]butyraldehyde.

reactant | 3-[2-(p-Bromophenyl)-5-pyridyl]propionaldehyde | BrC1=CC=C(C=C1)C1=NC=C(C=C1)CCC=O | C14H12BrNO
reactant | 2-(p-bromophenyl)-5-(4-methoxy-3-butenyl)pyridine | BrC1=CC=C(C=C1)C1=NC=C(C=C1)CCC=COC | C16H16BrNO
product | 4-[2-(p-bromophenyl)-5-pyridyl]butyraldehyde | BrC1=CC=C(C=C1)C1=NC=C(C=C1)CCCC=O | C15H14BrNO
